US07504511B2
N-(4-(5-Butyl-2-methoxyphenyl)-1,3-thiazol-2-yl)-4-(2-chloroethyl)benzamide.
A mixture containing 3 g of aminothiazole from Preparation 1.2, 10 ml of CH3CN, 2.54 g of 4-(2-chloroethyl)benzoic acid, 1.11 ml of Et3N and 6.1 g of BOP is prepared and stirred for 48 hours. The reaction medium is diluted with EtOAc and then washed with saturated Na2CO3 solution (twice) and with saturated NaCl solution, and then dried over MgSO4 and concentrated to dryness. After trituration from EtOH, the insoluble material formed is removed by filtration and the filtrate is then concentrated to dryness to give 7.7 g of the expected compound. This compound is purified by chromatography on silica, eluting with a toluene/cyclohexane gradient (9/1; v/v) up to pure toluene.

reactant | aminothiazole | 3 g | C1=CSC(=N1)N | C3H4N2S
reactant | CH3CN | 10 ml | CC#N | C2H3N
reactant | 4-(2-chloroethyl)benzoic acid | 2.54 g | ClCCC1=CC=C(C(=O)O)C=C1 | C9H9ClO2
reactant | BOP | 6.1 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | Et3N | 1.11 ml | CCN(CC)CC | C6H15N
product | N-(4-(5-Butyl-2-methoxyphenyl)-1,3-thiazol-2-yl)-4-(2-chloroethyl)benzamide | 7.7 g | C(CCC)C=1C=CC(=C(C1)C=1N=C(SC1)NC(C1=CC=C(C=C1)CCCl)=O)OC | C23H25ClN2O2S
